US05138022
Preparation of Poly(0.75 ethylene 4,4'-biphenyldicarboxylate-co-0.25 ethylene 3,4'-biphenyldicarboxylate)
A clear solution of 243.3 g (0.900 mole) of dimethyl 4,4'-biphenyldicarboxylate, 81.2 g of dimethyl 3,4'-biphenyldicarboxylate, 150.5 g (2.43 mole) of ethylene glycol and 50 μL of titanium tetraisopropoxide is stirred at 217° C. under nitrogen in a 1-L round bottom flask equipped with a paddle stirrer, Vigreaux column, distillation head, condenser, receiver and nitrogen inlet. The apparatus is heated in a molten salt bath until methanol begins to distill. After 2.7 hours, the temperature is slowly increased to 260° C. where it is held for 45 minutes. The distillate (104 mL) that has collected is discarded. Over the next 48 minutes the temperature is increased to 300° C. and the pressure is slowly reduced to 1 mm Hg. More liquid is distilled. The viscosity of the clear reaction mass slowly increases. After 8 minutes at 300° C., the heating bath is lowered and nitrogen is admitted. The polymer solidifies to an opaque creamy white solid when it cools. It is ground to coarse granules in a Wiley mill. The copolyester has an inherent viscosity of 0.72 dL/g, a Tg of 122° C. and a Tm of 293° C. The molecular weight of this polymer is advanced in the solid state by stirring the granules at 240° C. and 1 mm Hg for 3.2 hours. The advanced polymer has an inherent viscosity of 1.05 dL/g. It is injection molded into standard one eight-inch thick test bars at 316° C. into a mold held at 65° C. using an Arburg 170CDM injection molding machine. The tensile modulus and impact strength of these test bars are measured using procedures described in ASTM Test Nos. D638 and D256, respectively. The tensile modulus is 578 kpsi and the notched Izod impact strength is 1.2 ft. lb./in.

reactant | dimethyl 4,4'-biphenyldicarboxylate | 0.900 mole, 243.3 g | C1(=CC=C(C=C1)C(=O)OC)C1=CC=C(C=C1)C(=O)OC | C16H14O4
reactant | dimethyl 3,4'-biphenyldicarboxylate | 81.2 g | C1(=CC(=CC=C1)C(=O)OC)C1=CC=C(C=C1)C(=O)OC | C16H14O4
reactant | ethylene glycol | 2.43 mole, 150.5 g | C(CO)O | C2H6O2
catalyst | titanium tetraisopropoxide | 50 μL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | ethylene 4,4'-biphenyldicarboxylate | C12=CC=C(C=C1)C(=O)OCCOC(=O)C1=CC=C2C=C1 | C16H12O4
